US07795267B2
N-(2-Aminoethyl)-N-(cyclopropylmethyl)-2-nitrobenzenesulfonamide
To a solution of N-(cyclopropylmethyl)-2-nitrobenzenesulfonamide (1.7 g, 6.4 mmol), t-butyl N-(2-hydroxyethyl)carbamate (1.3 g, 8.3 mmol) and triphenylphosphine (2.2 g, 8.3 mmol) in toluene (20 mL) was added a 40% solution of diethyl azodicarboxylate in toluene (3.6 g, 8.3 mmol) with ice cooling, and the mixture was stirred at room temperature for 16 hours. The reaction solution was concentrated under reduced pressure to a half its original volume, and diethyl ether (30 mL) was added thereto. The precipitates were filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=49:1 to hexane:ethyl acetate=1:1) to obtain a condensed compound as an oily matter. A 4 M hydrogen chloride/ethyl acetate solution (20 mL) was added thereto, and the mixture was stirred at room temperature for 30 minutes. To the reaction solution was added water (70 mL) and extracted. The aqueous layer was collected by separation and washed with ethyl acetate. The aqueous layer was basified with a 4 N aqueous sodium hydroxide solution (pH=12), and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with amino silica gel column chromatography (hexane:ethyl acetate=19:1 to ethyl acetate) to obtain the title compound (1.2 g, yield 62%).

reactant | N-(cyclopropylmethyl)-2-nitrobenzenesulfonamide | 6.4 mmol, 1.7 g | C1(CC1)CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C10H12N2O4S
reactant | t-butyl N-(2-hydroxyethyl)carbamate | 8.3 mmol, 1.3 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | triphenylphosphine | 8.3 mmol, 2.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | hydrogen chloride ethyl acetate | 4 M, 20 mL | Cl.C(C)(=O)OCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 8.3 mmol, 3.6 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 70 mL | O | H2O
product | N-(2-Aminoethyl)-N-(cyclopropylmethyl)-2-nitrobenzenesulfonamide | 1.2 g, yield 62% | NCCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC1CC1 | C12H17N3O4S
